US04464369
Trifluoroacetic acid (5.2 ml) was added to a suspension of 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer) (1.3 g) in methylene chloride (2.5 ml) and anisole (1.3 ml) at ambient temperature, and the mixture was stirred for 1.5 hours at the same temperature. To the resultant solution was added a mixture of diisopropyl ether (30 ml) and n-hexane (15 ml), followed by stirring. The precipitates were collected by filtration and added to a mixture of ethyl acetate and water, followed by adjusting to pH 7.5 with 20% aqueous sodium carbonate. The separated aqueous layer was adjusted to pH 1.8 with 10% hydrochloric acid and saturated with sodium chloride. The resultant aqueous soluiton was extracted with a mixed solvent of ethyl acetate and tetrahydrofuran (2:1 by volume). The extract was washed with a saturated aqueous sodium chloride, dried over magnesium sulfate and then evaporated to give 7-[2-carboxymethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer) (0.8 g).

reactant | Trifluoroacetic acid | 5.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-tert-butoxycarbonylmethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.3 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C1=NSC=N1 | C17H18ClN5O7S2
reactant | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
reactant | n-hexane | 15 ml | CCCCCC | C6H14
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 1.3 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(1,2,4-thiadiazol-3-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 0.8 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C1=NSC=N1 | C13H10ClN5O7S2
